US09145409B2
[(1S)-1-[3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl]-2-(3,5-dichloro-1-oxido-pyridin-1-ium-4-yl)ethyl](2S)-3-[4-[[3-[(S)-phenyl-[[(3R)-quinuclidin-3-yl]oxycarbonylamino]methyl]phenoxy]methyl]benzoyl]thiazolidine-2-carboxylate (E29)
To a stirred solution of 4-((3-((S)-Phenyl((((R)-quinuclidin-3-yloxy)carbonyl)-amino)methyl)phenoxy)methyl)benzoic acid (I17, 61 mg, 0.125 mmol) in DMF (2 mL) was added [(1S)-1-[3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl]-2-(3,5-dichloro-1-oxido-pyridin-1-ium-4-yl)ethyl](2S)-thiazolidine-2-carboxylate hydrochloride (I5, 71 mg, 0.125 mmol) followed by DMAP (8 mg, 0.06 mmol) and EDC.HCl (48 mg, 0.25 mmol). The mixture was allowed to stir at room temperature for 18 h and then the solvent was removed in vacuo. The residue was partitioned between ethyl acetate (10 mL) and saturated sodium bicarbonate solution (10 mL). The organic phase was passed through a hydrophobic fit and the solvent was removed in vacuo. Purification was achieved by preparative HPLC to afford the title compound as a white solid (43 mg, 34%). 1H NMR (400 MHz, DMSO): δ 8.57 (s, 2 H), 8.23 (d, J=9.4 Hz, 1 H), 7.58-7.42 (m, 4 H), 7.37-6.87 (m, 12 H), 7.10 (t, J=74.4 Hz, 1 H), 6.08-5.97 (m, 1 H), 5.84 (d, J=9.1 Hz, 1 H), 5.58-5.48 (m, 1 H), 5.16 (s, 2 H), 4.60-4.53 (m, 1 H), 4.00-3.88 (m, 1 H), 3.88 (d, J=7.0 Hz, 2 H), 3.83-3.73 (m, 1 H), 3.55-2.92 (m, 5 H), 2.79-2.31 (m, 5 H), 1.93-1.13 (m, 6 H), 0.58-0.52 (m, 2 H), 0.32-0.26 (m, 2 H). LCMS (Method 1): [MH+]=1003 at 3.16 min.

reactant | 4-((3-((S)-Phenyl((((R)-quinuclidin-3-yloxy)carbonyl)-amino)methyl)phenoxy)methyl)benzoic acid | 0.125 mmol, 61 mg | C1(=CC=CC=C1)[C@@H](C=1C=C(OCC2=CC=C(C(=O)O)C=C2)C=CC1)NC(=O)O[C@H]1CN2CCC1CC2 | C29H30N2O5
reactant | [(1S)-1-[3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl]-2-(3,5-dichloro-1-oxido-pyridin-1-ium-4-yl)ethyl](2S)-thiazolidine-2-carboxylate hydrochloride | 0.125 mmol, 71 mg | Cl.C1(CC1)COC=1C=C(C=CC1OC(F)F)[C@H](CC1=C(C=[N+](C=C1Cl)[O-])Cl)OC(=O)[C@@H]1SCCN1
reactant | EDC.HCl | 0.25 mmol, 48 mg | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.06 mmol, 8 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | [(1S)-1-[3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl]-2-(3,5-dichloro-1-oxido-pyridin-1-ium-4-yl)ethyl](2S)-3-[4-[[3-[(S)-phenyl-[[(3R)-quinuclidin-3-yl]oxycarbonylamino]methyl]phenoxy]methyl]benzoyl]thiazolidine-2-carboxylate | 43 mg, 34% | C1(CC1)COC=1C=C(C=CC1OC(F)F)[C@H](CC1=C(C=[N+](C=C1Cl)[O-])Cl)OC(=O)[C@@H]1SCCN1C(C1=CC=C(C=C1)COC1=CC(=CC=C1)[C@@H](NC(=O)O[C@H]1CN2CCC1CC2)C2=CC=CC=C2)=O | C51H50Cl2F2N4O9S
